US07834008B2
The oxalate salt of (1S,2R)-2-(4-Acetylamino-4-phenyl-piperidin-1-ylmethyl)-1-(3,4-dichlorophenyl)cyclopropanecarboxylic acid methyl ester (10 mmol) was dissolved in methanol (80 mL) and water (20 ml). Lithium hydroxide (50 mmol) was added and the mixture was heated to reflux for 2 h. The mixture was cooled to rt and acidified to pH 3 with concentrated hydrochloric acid and the precipitated product (1S,2R)-2-(4-Acetylamino-4-phenyl-piperidin-1-ylmethyl)-1-(3,4-dichlorophenyl)cyclopropanecarboxylic acid hydrochloride was isolated by filtration and dried in vacuo.

reactant | (1S,2R)-2-(4-Acetylamino-4-phenyl-piperidin-1-ylmethyl)-1-(3,4-dichlorophenyl)cyclopropanecarboxylic acid methyl ester | 10 mmol | COC(=O)[C@@]1([C@@H](C1)CN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O)C1=CC(=C(C=C1)Cl)Cl | C25H28Cl2N2O3
reactant | Lithium hydroxide | 50 mmol | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 80 mL | CO | CH4O
solvent | water | 20 ml | O | H2O
product | (1S,2R)-2-(4-Acetylamino-4-phenyl-piperidin-1-ylmethyl)-1-(3,4-dichlorophenyl)cyclopropanecarboxylic acid hydrochloride | Cl.C(C)(=O)NC1(CCN(CC1)C[C@H]1[C@](C1)(C(=O)O)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | InChI=1S/C24H26Cl2N2O3.ClH/c1-16(29)27-23(17-5-3-2-4-6-17)9-11-28(12-10-23)15-19-14-24(19,22(30)31)18-7-8-20(25)21(26)13-18;/h2-8,13,19H,9-12,14-15H2,1H3,(H,27,29)(H,30,31);1H/t19-,24+;/m0./s1
